US04827011
3-(Hexadecyloxy)3-methyl-2-(phenylmethoxy)-1-butanol
To a suspension of 3.28 g of 50% sodium hydride in 40 ml of dimethylformamide containing 13.49 g of benzyl bromide was added dropwise a solution of 31.8 g of 3-(hexadecyloxy)-1-[(4-methoxyphenyl)diphenylmethoxy]-3-methyl-2-butanol in 50 ml of dimethylformamide over 45 minutes. The mixture was stirred overnight, then water was added and the mixture extracted with ether. The ether extract was dried and the solvent removed. The residue was stirred with 125 ml of methanol, 25 ml of tetrahydrofuran and 10 g of a strongly acidic ion exchange resin for 1.5 hours with warming, then filtered and the solvent removed. The residue was purified by HPLC, using hexane:ether (9:1), giving 12.14 g of the desired compound as a light yellow oil.

reactant | sodium hydride | 3.28 g | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-(hexadecyloxy)-1-[(4-methoxyphenyl)diphenylmethoxy]-3-methyl-2-butanol | 31.8 g | C(CCCCCCCCCCCCCCC)OC(C(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)OC)O)(C)C | C41H60O4
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml, 13.49 g | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(Hexadecyloxy)3-methyl-2-(phenylmethoxy)-1-butanol | 12.14 g | C(CCCCCCCCCCCCCCC)OC(C(CO)OCC1=CC=CC=C1)(C)C | C28H50O3
